US05919824
N-(2,3-Dimethylphenyl)-2-(2-nitrophenoxy)acetamide (S12)
2-(2-Nitrophenoxy)acetic acid S11 (5.28 g) and 2,3-dimethylaniline (3.25 g) were dissolved in dichloromethane (100 ml). 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (6.17g) and 4-dimethylaminopyridine (3.93 g) were added to the solution, and the solution was stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in dichloromethane. The resulting solution was washed successively with 1N HCl saturated aqueous sodium hydrogencarbonate solution and brine, then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, obtaining 7.7 g of the compound S12.

reactant | 2-(2-Nitrophenoxy)acetic acid | [N+](=O)([O-])C1=C(OCC(=O)O)C=CC=C1 | C8H7NO5
reactant | 2,3-dimethylaniline | 3.25 g | CC1=C(N)C=CC=C1C | C8H11N
reactant | 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 6.17g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 3.93 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(2,3-Dimethylphenyl)-2-(2-nitrophenoxy)acetamide | 7.7 g | CC1=C(C=CC=C1C)NC(COC1=C(C=CC=C1)[N+](=O)[O-])=O | C16H16N2O4
